US05639778
Step E: N,N-Dipropyl-indan-2,5-diamine (6g, Chart D, Chart 2).
A solution of N-(5-amino-indan-2-yl)-N-propylpropionamide (2.6 g, 10.5 mmol) in dry diethyl ether (50 mL) was added to a slurry of lithiumaluminum hydride (1.0 g, 26 mmol) in diethyl ether (150 mL) at ambient temperature. After stirring for 1.5 hours water (1.0 mL) followed by 15% sodium hydroxide (1.0 mL) and water (3.0 mL). After stirring for 10 minutes, the inorganic material was filtered off and the resulting solution was evaporated to yield 2.2 g (90%) of the desired product as an oil.:

reactant | N-(5-amino-indan-2-yl)-N-propylpropionamide | 10.5 mmol, 2.6 g | NC=1C=C2CC(CC2=CC1)N(C(CC)=O)CCC | C15H22N2O
reactant | lithiumaluminum hydride | 26 mmol, 1.0 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 1.0 mL | O | H2O
reactant | sodium hydroxide | 1.0 mL | [OH-].[Na+]
reactant | water | 3.0 mL | O | H2O
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 150 mL | C(C)OCC | C4H10O
product | N,N-Dipropyl-indan-2,5-diamine | 2.2 g, 90% | C(CC)N(C1CC2=CC=C(C=C2C1)N)CCC | C15H24N2
